US07018988B2
(3EZ,5S)-1-[(2′-methyl[1,1′-biphenyl]-4-yl)carbonyl]-5-({4-[4-(trifluoromethyl)phenyl]-1-piperazinyl}carbonyl)-3-pyrrolidinone O-methyloxime
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′-methyl[1,1′-biphenyl]4-carboxylic acid, and 1-[4-(trifluoromethyl)phenyl]piperazine, the title compound was obtained in 89% purity by HPLC. MS(ESI+): m/z=565.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′-methyl[1,1′-biphenyl]4-carboxylic acid | CC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C14H12O2
reactant | 1-[4-(trifluoromethyl)phenyl]piperazine | FC(C1=CC=C(C=C1)N1CCNCC1)(F)F | C11H13F3N2
product | (3EZ,5S)-1-[(2′-methyl[1,1′-biphenyl]-4-yl)carbonyl]-5-({4-[4-(trifluoromethyl)phenyl]-1-piperazinyl}carbonyl)-3-pyrrolidinone O-methyloxime | CON=C1CN([C@@H](C1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C | C31H31F3N4O3
